US06191245B1
Preparation of N-(1,1-Dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-s-indacen-1-yl)silanamine.
1,2,3,5-Tetrahydro-s-indacene, lithium salt (1.790 g, 11.04 mmol) in THF (25 mL) was added drop wise to a solution of ClSi(CH3)2-NH-tBu (2.157 g, 16.56 mol) in THF (50 mL). This mixture was then allowed to stir at room temperature overnight. After the reaction period the volatile materials were removed and the residue extracted and filtered using hexane. The removal of the hexane resulted in the isolation of the desired product as a yellow oil (2.799 g, 88.8% yield).

reactant | 1,2,3,5-Tetrahydro-s-indacene | C1CCC2=CC=3CC=CC3C=C12 | C12H12
reactant | lithium | 11.04 mmol, 1.790 g | [Li] | Li
reactant | ClSi(CH3)2-NH-tBu | 16.56 mol, 2.157 g | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(1,1-Dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-s-indacen-1-yl)silanamine | 2.799 g, 88.8% yield | CC(C)(C)N[Si](C1C=CC2=CC=3CCCC3C=C12)(C)C | C18H27NSi
